* RSS065N06HZG NMOSFET model
* Model Generated by ROHM
* All Rights Reserved
* Commercial Use or
* Resale Restricted
* Date: 2022/12/27
*********************D G S
.SUBCKT RSS065N06HZG 1 2 3
M1   11 22 3 3 MOS_N
D1         3 1 DDS
R1        1 11 RTH 12.066E-3
D2       22 11 DDG
R2        2 22 5.6
.MODEL MOS_N NMOS
+ LEVEL=3
+ L=2.0000E-6
+ W=1
+ KP=104.58E-6
+ RS=10.000E-3
+ RD=0
+ VTO=1.8198
+ RDS=60.000E6
+ TOX=2.0000E-6
+ CGSO=766p
+ CGDO=14p
+ CBD=0
+ RG=0
+ N=2
+ RB=1.0000E-3
+ GAMMA=1.1
+ ETA=0.0005
+ KAPPA=0.2
+ NFS=12G
.MODEL DDS D
+ IS=9.9137E-12
+ N=1.0455
+ RS=9.8316E-3
+ IKF=1.4075
+ CJO=450.35E-12
+ M=0.4654
+ VJ=0.3645
+ BV=60
+ TT=35n
.MODEL DDG D
+ CJO=320.00E-12
+ M=0.5436
+ VJ=0.9538
+ N=10000
+ FC=0.07
+ T_ABS=25
.MODEL RTH RES
+ TC1=0.0173
+ TC2=0.000034
.ENDS
